US07566699B2
4-Methoxy-2-methoxycarbonyl-3-(2-phenylethyl)benzo[b]-thiophene
To a solution of 2′-mercapto-6′-methoxydihydrochalcone (1.2 g) and triethylamine (0.92 mL) in dichloromethane (10 mL) was added methyl bromoacetate (0.46 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in methanol (15 mL). To the solution was added sodium methoxide (28% methanol solution, 1.7 mL), and the mixture was stirred at room temperature overnight. The crystals precipitated from the reaction mixture were collected by filtration and dried under reduced pressure to give the title compound (1.09 g).

reactant | 2′-mercapto-6′-methoxydihydrochalcone | 1.2 g | SC1=C(C(C=CC2CC=CC=C2)=O)C(=CC=C1)OC | C16H16O2S
reactant | triethylamine | 0.92 mL | C(C)N(CC)CC | C6H15N
reactant | methyl bromoacetate | 0.46 mL | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-Methoxy-2-methoxycarbonyl-3-(2-phenylethyl)benzo[b]-thiophene | 1.09 g | COC1=CC=CC=2SC(=C(C21)CCC2=CC=CC=C2)C(=O)OC | C19H18O3S
